US08895571B2
Step D: 5-bromo-2-((1S)-2-hydroxy-1-{3-[(trimethylsilyl)ethynyl]benzyl}ethyl)isoindolin-1-one
A solution of methyl 4-bromo-2-(bromomethyl)benzoate (0.75 g, 2.4 mmol), (2S)-2-amino-3-{3-[(trimethylsilyl)ethynyl]phenyl}propan-1-ol (0.60 g, 2.4 mmol) and N,N-diisopropylethylamine (2.1 mL, 12 mmol) in 1-butanol (2 mL) in a sealed tube was stirred at 140° C. for 2 h. The solvent was removed under vacuum and the residue was eluted with 0-100% EtOAc in hexanes giving 0.78 g (73% yield) of the pure desired product as off white solid. LC/MS found: 442.0 (M+H)+.

reactant | methyl 4-bromo-2-(bromomethyl)benzoate | 2.4 mmol, 0.75 g | BrC1=CC(=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
reactant | (2S)-2-amino-3-{3-[(trimethylsilyl)ethynyl]phenyl}propan-1-ol | 2.4 mmol, 0.60 g | N[C@H](CO)CC1=CC(=CC=C1)C#C[Si](C)(C)C | C14H21NOSi
reactant | N,N-diisopropylethylamine | 12 mmol, 2.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-butanol | 2 mL | C(CCC)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-2-((1S)-2-hydroxy-1-{3-[(trimethylsilyl)ethynyl]benzyl}ethyl)isoindolin-1-one | BrC=1C=C2CN(C(C2=CC1)=O)[C@H](CO)CC1=CC(=CC=C1)C#C[Si](C)(C)C | C22H24BrNO2Si
